* FeCIM Array SPICE Netlist
* Generated by Module 6: FeCIM Design Suite
* Operation Mode: Compute
* Array: 64 cells

.param VDD = 1.80
VDD vdd 0 DC {VDD}

* Word Line Drivers
VWL0 wl0 0 DC 0
VWL1 wl1 0 DC 0
VWL2 wl2 0 DC 0
VWL3 wl3 0 DC 0
VWL4 wl4 0 DC 0
VWL5 wl5 0 DC 0
VWL6 wl6 0 DC 0
VWL7 wl7 0 DC 0

* Bit Line Loads (1k for sensing)
RBL0 bl0 0 1k
RBL1 bl1 0 1k
RBL2 bl2 0 1k
RBL3 bl3 0 1k
RBL4 bl4 0 1k
RBL5 bl5 0 1k
RBL6 bl6 0 1k
RBL7 bl7 0 1k

* FeFET Cells (resistor model: R = 1/G)
R_0_0 wl0 bl0 16763.01
R_0_1 wl0 bl1 22656.25
R_0_2 wl0 bl2 14500.00
R_0_3 wl0 bl3 28712.87
R_0_4 wl0 bl4 12288.14
R_0_5 wl0 bl5 39189.19
R_0_6 wl0 bl6 11026.62
R_0_7 wl0 bl7 61702.13
R_1_0 wl1 bl0 19863.01
R_1_1 wl1 bl1 15183.25
R_1_2 wl1 bl2 24369.75
R_1_3 wl1 bl3 13302.75
R_1_4 wl1 bl4 34939.76
R_1_5 wl1 bl5 11836.73
R_1_6 wl1 bl6 51785.71
R_1_7 wl1 bl7 10661.76
R_2_0 wl2 bl0 15934.07
R_2_1 wl2 bl1 24369.75
R_2_2 wl2 bl2 13875.60
R_2_3 wl2 bl3 31521.74
R_2_4 wl2 bl4 12288.14
R_2_5 wl2 bl5 44615.38
R_2_6 wl2 bl6 10661.76
R_2_7 wl2 bl7 76315.79
R_3_0 wl3 bl0 21167.88
R_3_1 wl3 bl1 14500.00
R_3_2 wl3 bl2 26363.64
R_3_3 wl3 bl3 12775.33
R_3_4 wl3 bl4 34939.76
R_3_5 wl3 bl5 11417.32
R_3_6 wl3 bl6 61702.13
R_3_7 wl3 bl7 10320.28
R_4_0 wl4 bl0 17682.93
R_4_1 wl4 bl1 21167.88
R_4_2 wl4 bl2 14500.00
R_4_3 wl4 bl3 26363.64
R_4_4 wl4 bl4 12775.33
R_4_5 wl4 bl5 34939.76
R_4_6 wl4 bl6 11417.32
R_4_7 wl4 bl7 61702.13
R_5_0 wl5 bl0 18709.68
R_5_1 wl5 bl1 15934.07
R_5_2 wl5 bl2 24369.75
R_5_3 wl5 bl3 13875.60
R_5_4 wl5 bl4 31521.74
R_5_5 wl5 bl5 12288.14
R_5_6 wl5 bl6 44615.38
R_5_7 wl5 bl7 10661.76
R_6_0 wl6 bl0 15183.25
R_6_1 wl6 bl1 24369.75
R_6_2 wl6 bl2 13302.75
R_6_3 wl6 bl3 34939.76
R_6_4 wl6 bl4 11836.73
R_6_5 wl6 bl5 51785.71
R_6_6 wl6 bl6 10661.76
R_6_7 wl6 bl7 100000.00
R_7_0 wl7 bl0 22656.25
R_7_1 wl7 bl1 14500.00
R_7_2 wl7 bl2 28712.87
R_7_3 wl7 bl3 12288.14
R_7_4 wl7 bl4 39189.19
R_7_5 wl7 bl5 11026.62
R_7_6 wl7 bl6 61702.13
R_7_7 wl7 bl7 10000.00

* Analysis
.op
.control
run
print i(RBL0)
print i(RBL1)
print i(RBL2)
print i(RBL3)
print i(RBL4)
print i(RBL5)
print i(RBL6)
print i(RBL7)
.endc
.end
